US04440686
1.56 grams (0.005 mole) of 2-azido-3-benzyloxypropionic acid benzyl ester were dissolved in 10 ml of absolute ethanol, 1.10 grams (0.03 mole) of dry hydrogen chloride led in, and the mixture treated with 0.20 grams of palladium on activated carbon (10%). This reaction mixture was hydrogenated in an autoclave for 40 hours at 25° C., and a hydrogen pressure of 20 bar. After filtration, the filtrate was concentrated on the rotary evaporator, and the residue recrystallized from ethanol/diethyl ether (volume ratio about 1:1). There were obtained 0.81 grams (96% of theory) of D,L-serine ethyl ester hydrochloride having a melting point of 102°-103.5° C. (Literature: 100°-102° C.

reactant | 2-azido-3-benzyloxypropionic acid benzyl ester | 0.005 mole, 1.56 grams | C(C1=CC=CC=C1)OC(C(COCC1=CC=CC=C1)N=[N+]=[N-])=O | C17H17N3O3
reactant | hydrogen chloride | 0.03 mole, 1.10 grams | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium on activated carbon | 0.20 grams | [Pd] | Pd
product | D,L-serine ethyl ester hydrochloride | 0.81 grams, 96% | Cl.C(C)OC(C(N)CO)=O | InChI=1S/C5H11NO3.ClH/c1-2-9-5(8)4(6)3-7;/h4,7H,2-3,6H2,1H3;1H
